US04824958
Methyl 3-hydroxy-1-methyl-1H-pyrrole-2-carboxylate.
Methyl sarcosinate (14.5 g, 0.14 moles) is added dropwise to methyl α-chloroacrylate (16.9 g, 0.14 moles), stirred and cooled in an ice bath. After 15 minutes the mixture is dissolved in methanol (30 mL) and added dropwise to a solution of sodium (9.7 g, 0.42 moles) in methanol (125 mL) under argon. After 18 hours at room temperature, the mixture is striped of methanol under reduced pressure. The residue is taken up in water (300 mL), acidified with H3PO4, and extracted with ethyl acetate (5×100 mL). The combined extracts are dried over MgSO4, concentrated under reduced pressure and filtered through a short column of silica gel. The filtrate is stripped of solvent under reduced pressure, leaving the product (16.5 g) as an oil sufficiently pure for further use. An analytically pure sample was obtained by vacuum distillation; bp 61°-64° C. (0.5 mm) followed by recrystallization of the distillate from n-pentane to afford the product as shiny white crystals; mp 44°-46° C.

reactant | Methyl sarcosinate | 0.14 moles, 14.5 g | N(C)CC(=O)OC | C4H9NO2
reactant | methyl α-chloroacrylate | 0.14 moles, 16.9 g | ClC(C(=O)OC)=C | C4H5ClO2
reactant | sodium | 0.42 moles, 9.7 g | [Na] | Na
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | methanol | 30 mL | CO | CH4O
solvent | methanol | 125 mL | CO | CH4O
solvent | water | 300 mL | O | H2O
product | Methyl 3-hydroxy-1-methyl-1H-pyrrole-2-carboxylate | 16.5 g | OC1=C(N(C=C1)C)C(=O)OC | C7H9NO3
